US04455422
0.37 Gram of 6-{4-[4-(2-chlorophenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril and 0.1 g of 10%-palladium carbon were suspended in 40 ml of water, then 0.2 ml of concentrated hydrochloric acid was added to the suspension and the mixture was catalytically hydrogenated under 5 atmospheric pressure of hydrogen gas at an ordinary temperature. The catalyst was removed by filtration and to the filtrate were added 10N-NaOH and ether and stirred at a room temperature for 30 minutes. The crystals thus precipitated were collected by filtration and recrystallized from ispropanol to obtain 6-{4-[4-(2-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 0.27 g. Melting point: 129°-130° C.

reactant | 6-{4-[4-(2-chlorophenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril | ClC1=C(C=CC=C1)N1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C23H26ClN3O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | water | 40 ml | O | H2O
catalyst | palladium carbon | [C].[Pd]
product | 6-{4-[4-(2-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril | ClC1=C(C=CC=C1)N1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O | C23H28ClN3O
